US07589042B2
Synthesis of (dichloro)(pentamethylcyclopentadienyl)(2-isopropyl-6-phenylphenoxy)titanium(IV)
2-isopropyl-6-phenylphenol (700 mg, 3.28 mmol) and sodium hydride (236 mg, 9.84 mmol) were dissolved in 10 mL of toluene, and then refluxed for 4 hours. Subsequently, cooling to normal temperature was conducted, a solution in which (trichloro)(pentamethylcyclopentadienyl)titanium(IV) (930 mg, 3.21 mmol) was dissolved in 5 mL of toluene was slowly dropped thereonto, and reflux was conducted for 24 hours. After the reaction was finished, volatile materials were removed, washing was conducted using purified hexane, recrystallization was conducted using a mixed solution of toluene/hexane at −35° C., filtration was conducted, and drying was conducted at reduced pressure to produce 1.0 g of red solid component.

reactant | 2-isopropyl-6-phenylphenol | 3.28 mmol, 700 mg | C(C)(C)C1=C(C(=CC=C1)C1=CC=CC=C1)O | C15H16O
reactant | sodium hydride | 9.84 mmol, 236 mg | [H-].[Na+]
reactant | (trichloro)(pentamethylcyclopentadienyl)titanium(IV) | 3.21 mmol, 930 mg | Cl[Ti](C1(C(=C(C(=C1C)C)C)C)C)(Cl)Cl
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (dichloro)(pentamethylcyclopentadienyl)(2-isopropyl-6-phenylphenoxy)titanium(IV) | 1.0 g, Yield: 64% | Cl[Ti](OC1=C(C=CC=C1C1=CC=CC=C1)C(C)C)(C1(C(=C(C(=C1C)C)C)C)C)Cl | InChI=1S/C15H16O.C10H15.2ClH.Ti/c1-11(2)13-9-6-10-14(15(13)16)12-7-4-3-5-8-12;1-6-7(2)9(4)10(5)8(6)3;;;/h3-11,16H,1-2H3;1-5H3;2*1H;/q;;;;+3/p-3
